data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=C(Cl)N=C2)C2=C1C=C(Cl)C=C2.O=C([O-])[O-].OB(O)C1=CC=CC2=C1OC1=C2C=CC=C1.[Na+].[Na+].[Pd:2]|(1, 2)",24,6,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=C(Cl)N=C2)C2=CC=C(Cl)C=C12.O=C([O-])[O-].OB(O)C1=CC=CC2=C1OC1=CC=CC=C12.[Na+].[Na+]|(2, 1)",24,5,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=[C:2]([Cl:3])N=C2)C2=CC=C(Cl)C=C12.O=C([O-])[O-].OB(O)C1=CC=CC2=C1OC1=CC=CC=C12.[Na+].[Na+]|(1, 2);((2, 3), 1)",24,4,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=[C]([Pd-2:1]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[Cl:2])N=C2)C2=CC=C(Cl)C=C12.O=C([O-])[O-:3].OB(O)C1=CC=CC2=C1OC1=CC=CC=C12.[Na+:4].[Na+]|(3, 1);((1, 2), 4)",24,3,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=[C]([Pd-2:1]([O]C(=O)[O-])([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)N=C2)C2=CC=C(Cl)C=C12.O[B:2](O)[C:3]1=CC=CC2=C1OC1=CC=CC=C12.[Na+].[Na][Cl]|(1, 3);((3, 2), 1)",24,2,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=[C]([Pd-2:1]([C]3=CC=CC4=C3OC3=CC=CC=C34)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([O:2]C(=O)[O-])[B:3](O)O)N=C2)C2=CC=C(Cl)C=C12.[Na+].[Na][Cl]|((1, 2), 3);((3, 1), 1)",24,1,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CO.COC(=O)CCC(=O)C1=CN(CC2=CC=[C:3]([Pd-2:1]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:2]3=CC=CC4=C3OC3=CC=CC=C34)N=C2)C2=CC=C(Cl)C=C12.O=C([O-])OB(O)O.[Na+].[Na][Cl]|((1, 3), 2);((2, 1), 1)",24,0,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=C(C=C(Br)C=C3)CCC12.ClCCl.O=C([O-])[O-].O=CC1=CC(B(O)O)=CC=C1O.OBO.[Na+].[Na+].[Pd:2].[Pd]|(1, 2)",39,6,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=CC=C(Br)C=C3CCC12.ClCCl.O=C([O-])[O-].O=CC1=CC(B(O)O)=CC=C1O.OBO.[Na+].[Na+].[Pd]|(1, 2)",39,5,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=CC=[C:1]([Br:2])C=C3CCC12.ClCCl.O=C([O-])[O-].O=CC1=CC(B(O)O)=CC=C1O.OBO.[Na+].[Na+].[Pd]|(3, 1);((1, 2), 3)",39,4,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=CC=[C]([Pd-2:1]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Br:2])C=C3CCC12.ClCCl.O=C([O-])[O-:3].O=CC1=CC(B(O)O)=CC=C1O.OBO.[Na+:4].[Na+].[Pd]|(3, 1);((1, 2), 4)",39,3,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=CC=[C]([Pd-2:2]([O]C(=O)[O-])([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)C=C3CCC12.ClCCl.O=CC1=C[C:1]([B:3](O)O)=CC=C1O.OBO.[Na+].[Na][Br].[Pd]|(2, 1);((1, 3), 2)",39,2,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=CC=[C]([Pd-2:1]([C]4=CC=C(O)C(C=O)=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([O:2]C(=O)[O-])[B:3](O)O)C=C3CCC12.ClCCl.OBO.[Na+].[Na][Br].[Pd]|((1, 2), 3);((3, 1), 1)",39,1,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CN1C(=O)CCC2(C)C3=CC=[C:1]([Pd-2:2]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[C:3]4=CC=C(O)C(C=O)=C4)C=C3CCC12.ClCCl.O=C([O-])OB(O)O.OBO.[Na+].[Na][Br].[Pd]|((2, 1), 3);((3, 2), 2)",39,0,reaction_17,USPTO_suzuki,train
